US08471005B2
N-tert-Butyl-3-{2-[2-(2-morpholin-4-yl-ethyl)-2H-indazol-6-ylamino]-pyrrolo[2,1-f][1,2,4]triazin-7-yl}-benzenesulfonamide
Following the procedure of Example 1315, N-tert-butyl-3-(2-hydroxy-pyrrolo[2,1-f][1,2,4]triazin-7-yl)-benzenesulfonamide (114 mg, 0.330 mmol) was coupled in parallel fashion to 2-(2-morpholin-4-yl-ethyl)-2H-indazol-6-ylamine (57 mg, 0.23 mmol) and 2-(2-morpholin-4-yl-ethyl)-2H-indazol-5-ylamine (57 mg, 0.23 mmol). Products were purified by RP pHPLC as described in Example 1291c. Yield of TFA salt: 71 mg (62%); LC/MS: 575 (M+H); HPLC: 97% pure, RT=2.73 min; 1H NMR: (DMSO, δ) 9.68 (s, 1H), 9.08 (s, 1H), 8.73 (d, J=7.9, 1H), 8.42 (s, 1H), 8.38 (s, 1H), 8.19 (s, 1H), 7.87 (d, J=7.8, 1H), 7.77 (t, J=7.7, 1H), 7.72 (s, 1H), 7.69 (d, J=9.0, 1H), 7.36 (d, J=9.0, 1H), 7.25 (d, J=4.8, 1H), 7.04 (d, J=4.8, 1H), 4.85 (t, J=5.7, 2H), 3.85 (m, 4H), 3.80 (m, 2H), 3.30 (m, 4H), 1.13 (s, 9H).

reactant | N-tert-butyl-3-(2-hydroxy-pyrrolo[2,1-f][1,2,4]triazin-7-yl)-benzenesulfonamide | 0.330 mmol, 114 mg | C(C)(C)(C)NS(=O)(=O)C1=CC(=CC=C1)C1=CC=C2C=NC(=NN21)O | C16H18N4O3S
reactant | 2-(2-morpholin-4-yl-ethyl)-2H-indazol-6-ylamine | 0.23 mmol, 57 mg | N1(CCOCC1)CCN1N=C2C=C(C=CC2=C1)N | C13H18N4O
reactant | 2-(2-morpholin-4-yl-ethyl)-2H-indazol-5-ylamine | 0.23 mmol, 57 mg | N1(CCOCC1)CCN1N=C2C=CC(=CC2=C1)N | C13H18N4O
product | N-tert-Butyl-3-{2-[2-(2-morpholin-4-yl-ethyl)-2H-indazol-6-ylamino]-pyrrolo[2,1-f][1,2,4]triazin-7-yl}-benzenesulfonamide | C(C)(C)(C)NS(=O)(=O)C1=CC(=CC=C1)C1=CC=C2C=NC(=NN21)NC=2C=CC1=CN(N=C1C2)CCN2CCOCC2 | C29H34N8O3S
